US09029399B2
Preparation of Intermediate 6-Bromo-5-fluoro-benzo[b]thiophene (I-27d)
Using analogous reaction condition and reagents as described in Example 25 for the preparation of I-25c above, 6-bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid (I-27c: 250 mg 0.89 mmol) in DMA (4 mL) and DBU (550 mL, 3.6 mmol) were heated in microwave to afford the crude product. Purification by column chromatography on silica gel (100% hexane) afforded 180 mg of the product (86% yield).

reactant | 6-bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid | 0.89 mmol, 250 mg | BrC=1C(=CC2=C(SC(=C2)C(=O)O)C1)F | C9H4BrFO2S
reactant | DBU | 3.6 mmol, 550 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 6-Bromo-5-fluoro-benzo[b]thiophene | 180 mg, 86% yield | BrC=1C(=CC2=C(SC=C2)C1)F | C8H4BrFS
